US07994171B2
5-(5-(1-(4,6-dimethylpyrimidin-2-yl)cyclopropylcarbamoyl)-4-methoxy-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.15 g, 0.34 mmol, 1 eq), 1-(4,6-dimethylpyrimidin-2-yl)cyclopropanamine (0.17 g, 0.1 mmol, 3 eq) (60% purity), HOBT (0.046 g, 0.34 mmol, 1.0 eq), EDC.HCl (0.072 g, 0.37 mmol, 1.1 q) in DCM at ambient temperature under a nitrogen atmosphere was added diisopropylehtylamine (0.132 g, 1.0 mmol, 3 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer was further washed with water, dried over sodium sulphate and concentrated. The product obtained was further purified by column chromatography (neutral alumina) using 0.5% Methanol/DCM and finally purified by preparative HPLC. Yield: 0.15 g (14%). 1H NMR (400 MHz, DMSO-d6): δ 1.43-1.44 (d, J=3.36 Hz, 2H), 1.51-1.54 (d, J=3.48 Hz, 2H), 2.32-2.34 (d, J=5.8 Hz, 9H), 2.81-2.82 (d, J=4.6 Hz, 3H), 4.0 (s, 3H) 7.0 (s, 1H), 7.15 (s, 1H), 7.34-7.42 (m, 3H), 7.52 (s, 1H), 7.72-7.74 (d, J=8.8 Hz, 2H), 7.97-8.02 (m, 2H), 8.46-8.48 (d, J=4.56 Hz, 1H), 8.91 (s, 1H). LCMS: (ES+) m/z=579.2 (M+H)+

reactant | 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.34 mmol, 0.15 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(4,6-dimethylpyrimidin-2-yl)cyclopropanamine | 0.1 mmol, 0.17 g, 3 eq | CC1=NC(=NC(=C1)C)C1(CC1)N | C9H13N3
reactant | HOBT | 0.34 mmol, 0.046 g, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.37 mmol, 0.072 g | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylehtylamine | 1.0 mmol, 0.132 g, 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(5-(1-(4,6-dimethylpyrimidin-2-yl)cyclopropylcarbamoyl)-4-methoxy-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | CC1=NC(=NC(=C1)C)C1(CC1)NC(=O)C=1C(=CC(=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C)OC | C34H31FN4O4
